US06203785B1
Synthesis of N-(N,N-dimethyl-N-dodecylammonio)butyl-diallylmethylammonium chloride bromide.
A mixture of 22 g diallylmethylamine and 75 g 4-chlorobutyldimethyldodecylammonium bromide were dissolved in 100 mL methanol and the reaction mixture was stirred at 65° C. for 48 hours. The progress of the reaction was monitored by the disappearance of the diallylmethylamine by thin layer chromatography (TLC). After cooling to room temperature, the solvent was removed under reduced pressure. The residual viscous oil was precipitated into 800 mL dry ether with rapid stirring. The ether layer was decanted and the residue was again treated with 500 mL dry ether. After stirring for 15 minutes the solvent was removed and the oily residue was dried under vacuum at 35° C. for 48 hours, yielding 65 g of the product.

reactant | diallylmethylamine | 22 g | C(C=C)C(CC=C)N | C7H13N
reactant | 4-chlorobutyldimethyldodecylammonium bromide | 75 g | [Br-].ClCCCC[N+](CCCCCCCCCCCC)(C)C
solvent | methanol | 100 mL | CO | CH4O
product | N-(N,N-dimethyl-N-dodecylammonio)butyl-diallylmethylammonium chloride bromide | 65 g | [Br-].[Cl-].C[N+](CCCCCCCCCCCC)(C)CCCC[NH2+]C(CC=C)CC=C | InChI=1S/C25H51N2.BrH.ClH/c1-6-9-10-11-12-13-14-15-16-18-23-27(4,5)24-19-17-22-26-25(20-7-2)21-8-3;;/h7-8,25-26H,2-3,6,9-24H2,1,4-5H3;2*1H/q+1;;/p-1
